US05106526
106.6 grams (0.45 mol) 1,1,3-trichloro-1,2,2,3,3-pentafluoropropane (produced in Part C above) and 300 gm (5 mol) isopropanol were stirred under an inert atmosphere and irradiated 4.5 hours with a 450 W Hanovia Hg lamp at a distance of 2-3 inches (5-7.6 cm). The acidic reaction mixture was then poured into 1.5 liters ice water. The organic layer was separated, washed twice with 50 ml water, dried with calcium sulfate, and distilled to give 50.5 gm ClCF2CF2CHClF, bp 54.5-56° C. (55%). 1H NMR (CDCl3): ddd centered at 6.43 ppm. J H-C-F=47 Hz, J H-C-C-Fa=12 Hz, J H-C-C-Fb=2 Hz.

reactant | 1,1,3-trichloro-1,2,2,3,3-pentafluoropropane | 0.45 mol, 106.6 grams | ClC(C(C(F)(F)Cl)(F)F)(F)Cl | C3Cl3F5
reactant | isopropanol | 5 mol, 300 gm | C(C)(C)O | C3H8O
product | ClCF2CF2CHClF | 50.5 gm | ClC(F)(F)C(F)(F)C(Cl)F | C3HCl2F5
